US07060827B2
In a manner similar to the preparation of N4-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(carboxy)benzofuran-5-yl]-2,4-pyrimidinediamine, LiOH treatment with N4-(4-tert-butylphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine gave N4-(4-tert-butylphenyl)-N2-(2-carboxybenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 9.3 (bd, 2H), 8.25 (s, 1H), 8.10 (s, 1H), 7.65–7.30 (m, 5H), 1.25 (s, 9H); 19F NMR (CD3OD): −21844; LCMS: ret. time: 23.32 min.; purity: 100%; MS (m/e): 421 (MH+).

reactant | N4-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(carboxy)benzofuran-5-yl]-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)O)C1 | C23H23FN4O3
reactant | LiOH | [Li+].[OH-]
reactant | N4-(4-tert-butylphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C24H23FN4O3
product | N4-(4-tert-butylphenyl)-N2-(2-carboxybenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C23H21FN4O3
